US06992087B2
Preparation of 3,6-diethyl-N-(8-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.63, 7.22, 6.78, 5.40, 4.31, 3.71, 2.86-2.65, 2.53-2.38, 1.88-1.67, 1.32, 1.21; HRMS (FAB) calcd for C19H25N3O+H 312.2076, found 312.2077.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine | COC=1C=CC=C2CCCC(C12)N | C11H15NO
product | 3,6-diethyl-N-(8-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=CC=CC(=C12)OC | C19H25N3O
